US08604023B2
N-(5-(3-(Biphenyl-2-ylmethyl)-7-chloro-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)pivalamide
3-(Biphenyl-2-ylmethyl)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (0.192 g, 0.469 mmol), N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pivalamide (0.214 g, 0.703 mmol, 1.2 eq), Palladium (II) acetate (0.2 eq), triphenyl phosphine (0.2 eq) and cesium carbonate (2 eq) were heated at 100° C. in DMF (3 mL) under an atmosphere of nitrogen in a sealed tube for 1.5 h. The mixture was cooled then diluted with ethyl acetate and water (2:1) then filtered through a pad of celite. The layers were separated and the organic phase was washed with brine then dried over sodium sulfate. Chromatography eluting with 1:1 ethyl acetate in hexanes gave an oil which was dissolved in a 2:1 mixture of acetonitrile and water and freeze-dried to give product as an off-white solid (0.096 g, 37% yield). 1H-NMR (300 MHz, CDCl3) δ 8.29-8.22 (m, 2H), 8.09 (s, 1H), 7.71 (dd, 1H), 7.51-7.47 (m, 2H), 7.32-7.28 (m, 2H), 7.20-7.12 (m, 8H), 3.69-3.55 (m, 2H), 3.41-3.36 (m, 1H), 3.31 (s, 3H), 1.33 (s, 9H). MS (APCI) m/z 551 (M+1).

reactant | 3-(Biphenyl-2-ylmethyl)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.469 mmol, 0.192 g | C1(=C(C=CC=C1)CC1N=C(C2=C(N(C1=O)C)C=CC(=C2)Cl)Cl)C2=CC=CC=C2 | C23H18Cl2N2O
reactant | N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pivalamide | 0.703 mmol, 0.214 g, 1.2 eq | CC1(OB(OC1(C)C)C=1C=CC(=NC1)NC(C(C)(C)C)=O)C | C16H25BN2O3
reactant | triphenyl phosphine | 0.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cesium carbonate | 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Palladium (II) acetate | 0.2 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(5-(3-(Biphenyl-2-ylmethyl)-7-chloro-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)pivalamide | 0.096 g, 37% yield | C1(=C(C=CC=C1)CC1N=C(C2=C(N(C1=O)C)C=CC(=C2)Cl)C=2C=CC(=NC2)NC(C(C)(C)C)=O)C2=CC=CC=C2 | C33H31ClN4O2
